US08349867B2
Ethyl 4-chloro-6,7,8-trifluoroquinoline 3-carboxylate
A solution of ethyl 4-hydroxy-6,7,8-trifluoroquinoline-3-carboxylate (59.0 g) and POCl3 (500 ml) was refluxed for 8 h. Excess POCl3 was distilled off, the residue was removed into the mixture of ice and water. Solid NaHCO3 was added into the mixture to pH 7˜8 and the precipitated solid was isolated by filtration. The crude was recrystallized by toluene to afford the title compound (41.3 g, 65.6% yield), mp: 110-112° C.

reactant | ethyl 4-hydroxy-6,7,8-trifluoroquinoline-3-carboxylate | 59.0 g | OC1=C(C=NC2=C(C(=C(C=C12)F)F)F)C(=O)OCC | C12H8F3NO3
reactant | POCl3 | 500 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | Ethyl 4-chloro-6,7,8-trifluoroquinoline 3-carboxylate | 41.3 g, 65.6% yield | ClC1=C(C=NC2=C(C(=C(C=C12)F)F)F)C(=O)OCC | C12H7ClF3NO2
